US07488844B2
(i) N-(4-Chlorobenzyl)-N-(4-isopropylbenzyl)amine
To a solution of 4-chlorobenzylamine (2.83 g, 20.0 mmol) and 4-isopropylbenzaldehyde (2.96 g, 20.0 mmol) in methanol (100 mL) were added acetic acid (4.6 mL, 80 mmol) and sodium cyanoborohydride (1.51 g, 24.0 mmol) and the solution was stirred at room temperature for three days. Water (5 mL) was added and the mixture was concentrated in vacuo. The residue was taken up in ethyl acetate (100 mL) and aqueous 1 M KOH (100 mL) and the phases were separated. The aqueous phase was extracted with ethyl acetate (2×100 mL) and the combined organic phase was washed with brine (100 mL), dried over Na2SO4, and concentrated in vacuo to afford 5.80 g of crude product as a white semicrystalline oil. The product was used in the subsequent reaction step without further purification.

reactant | 4-chlorobenzylamine | 20.0 mmol, 2.83 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 4-isopropylbenzaldehyde | 20.0 mmol, 2.96 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | acetic acid | 80 mmol, 4.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 24.0 mmol, 1.51 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | Water | 5 mL | O | H2O
product | N-(4-Chlorobenzyl)-N-(4-isopropylbenzyl)amine | 5.80 g | ClC1=CC=C(CNCC2=CC=C(C=C2)C(C)C)C=C1 | C17H20ClN
